US09399640B2
Step 1. N-(3-(2,4-Difluorophenoxy)-4-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-2-nitrophenyl)-2,2,2-trifluoroacetamide
A solution of 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (250 mg, 0.441 mmol) in methylene chloride (2.1 mL) was treated with triethylamine (123 μL, 0.882 mmol), cooled to 0° C., treated with trifluoroacetic anhydride (125 μL, 0.882 mmol) dropwise, and stirred at ambient temperature for 1.5 h. The above reaction mixture was diluted with dichloromethane (50 mL) and brine (50 mL). The aqueous layer was separated and extracted with dichloromethane (2×40 mL). The combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (40% EtOAc/hexanes to 80% EtOAc/hexanes) gave the desired product (293 mg, quantitative) as a solid. LCMS calculated for C29H20F5N4O7S (M+H)+: m/z=663.1. found: 663.0.

reactant | 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.441 mmol, 250 mg | NC1=C(C(=C(C=C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F)[N+](=O)[O-] | C27H20F2N4O6S
reactant | triethylamine | 0.882 mmol, 123 μL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.882 mmol, 125 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 2.1 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | N-(3-(2,4-Difluorophenoxy)-4-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-2-nitrophenyl)-2,2,2-trifluoroacetamide | 293 mg | FC1=C(OC=2C(=C(C=CC2C=2C3=C(C(N(C2)C)=O)N(C=C3)S(=O)(=O)C3=CC=C(C=C3)C)NC(C(F)(F)F)=O)[N+](=O)[O-])C=CC(=C1)F | C29H19F5N4O7S
